US05474756
1,4,7-Triscarboxymethyl-10-(2'-cyanoethyl)-1,4,7,10-tetraazacyclododecane
Into a 50 ml round bottom flask was placed 5.22 g (0.0151 mol) of 1,4,7,-triscarboxymethyl-1,4,7,10-tetraazacyclododecane (DO3A) and dissolved in 21 ml of water. The pH of the solution was raised to 8.28 with 6N NaOH. Then 1.35 ml (1.09 g, 0.0205 mol) of acrylonitrile was added and the reaction allowed to stir overnight at room temperature. The reaction is then concentrate in vacuo, and then re-dissolved in methanol and concentrated in vacuo.

reactant | 1,4,7,-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 0.0151 mol, 5.22 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | NaOH | 6N | [OH-].[Na+]
reactant | acrylonitrile | 0.0205 mol, 1.35 ml, 1.09 g | C(C=C)#N | C3H3N
solvent | water | 21 ml | O | H2O
product | 1,4,7-Triscarboxymethyl-10-(2'-cyanoethyl)-1,4,7,10-tetraazacyclododecane | C(=O)(O)CN1CCN(CCN(CCN(CC1)CCC#N)CC(=O)O)CC(=O)O | C17H29N5O6
